US07691869B2
The title A compound, t-butyl 4-((3-methylbenzo[b]thiophen-2-yl)methyl)piperazine-1-carboxylate is dissolved in dry DCM (50 mL), and 5 equiv. of TFA are added at 0° C. The reaction mixture is stirred at RT for 3 h. After the solvent is evaporated in vacuo, the residue is trituated in Et2O, and the precipitate that forms is collected by filtration, washed with EtOH and dried in a vacuum oven at 40° C. overnight to give a hygroscopic solid. The solid is treated with sodium bicarbonate solution, and extracted with EtOAc. The organic layer is evaporated in vacuo, and the residue is dissolved in Et2O and treated with a solution of hydrochloric acid in Et2O. The precipitated solid is collected by filtration and dried to give 1-((3-methylbenzo[b]thiophen-2-yl)methyl)piperazine dihydrochloride: LC/MS (M+1=247.1). 1H NMR (DMSO-d6, 200 MHz) δ 2.48 (s, 3H), 3.39 (m, 4H), 3.54 (m, 4H), 4.63 (s, 2H), 7.45 (m, 2H), 7.84 (d, 1H, J=7.2 Hz), 7.95 (d, 1H, J=7.2 Hz), 9.52 (br s, NH). Anal. calculated for (C14H18N2S 2HCl): C, 52.66; H, 6.31; Cl, 22.21; N, 8.77; S, 10.04. Found: C, 52.70; H, 6.58; N, 8.77; S, 9.70.

reactant | t-butyl 4-((3-methylbenzo[b]thiophen-2-yl)methyl)piperazine-1-carboxylate | CC=1C2=C(SC1CN1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2 | C19H26N2O2S
reactant | TFA | 5 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-((3-methylbenzo[b]thiophen-2-yl)methyl)piperazine dihydrochloride | Cl.Cl.CC=1C2=C(SC1CN1CCNCC1)C=CC=C2 | InChI=1S/C14H18N2S.2ClH/c1-11-12-4-2-3-5-13(12)17-14(11)10-16-8-6-15-7-9-16;;/h2-5,15H,6-10H2,1H3;2*1H
